US08076345B2
B) N-((6-(Trifluoromethyl)pyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine
A mixture of 6-benzyl-N-((6-(trifluoromethyl)pyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine (7.41 g, 18.6 mmol), methanol (300 mL), and 10% palladium on charcoal (1.0 g) was evacuated and purged with hydrogen 3 times, then hydrogenated (1 atm) at room temperature for 2 days. The mixture was filtered through a pad of Celite and the filter cake was washed with MeOH. The filtrate was concentrated in vacuo to yield a pale yellow foam (4.8 g). LC-MS: 310.4 [M+H]+

reactant | 6-benzyl-N-((6-(trifluoromethyl)pyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 18.6 mmol, 7.41 g | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)C(F)(F)F)CC1 | C21H20F3N5
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
solvent | methanol | 300 mL | CO | CH4O
product | N-((6-(Trifluoromethyl)pyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 4.8 g | FC(C1=CC=C(C=N1)CNC=1C2=C(N=CN1)CCNC2)(F)F | C14H14F3N5
